US09399640B2
Step 1. 2-(4-Bromo-2-nitro-3-phenoxyphenoxy)-1-phenylethanone
This compound was synthesized according to the procedure of Example 76, Step 5, using 4-bromo-2-nitro-3-phenoxyphenol and 2-hydroxy-1-phenylethanone as the starting materials. LCMS calculated for C20H15BrNO5 (M+H)+: m/z=428.0, 430.0. found: 427.9, 429.9.

reactant | 4-bromo-2-nitro-3-phenoxyphenol | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])OC1=CC=CC=C1 | C12H8BrNO4
reactant | 2-hydroxy-1-phenylethanone | OCC(=O)C1=CC=CC=C1 | C8H8O2
product | 2-(4-Bromo-2-nitro-3-phenoxyphenoxy)-1-phenylethanone | BrC1=C(C(=C(OCC(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C20H14BrNO5
